US04496551
Preparation of (1,1'-Biphenyl-4-yl)chloromethyl(4-fluorophenyl)methylsilane
A solution of 10.0 g (32.8 mmol) of (1,1'-biphenyl-4-yl)(chloromethyl)methyl(2-propoxy)silane and 3.6 ml (32.8 mmol) of 4-bromofluorobenzene in 30 ml of dry tetrahydrofuran was cooled to -60° under nitrogen and stirred while 20.5 ml (32.8 mmol) of 1.6 molar n-butyllithium in hexane was added at a rate that held the mixture below 50°. After stirring at -70° for another 30 minutes, the solution was allowed to warm to room temperature and was worked up as in Example 8. The resulting crude product was subjected to distillation at 130°-150° (0.2 mm) to remove unreacted starting material, leaving the title compound as an oil: nD23 1.5128; nmr (CDCl3): 0.7 (3H, s), 3.1 (2H, s), 7.1 (2H, t), 7.2-7.8 (11H, m).

reactant | (1,1'-biphenyl-4-yl)(chloromethyl)methyl(2-propoxy)silane | 32.8 mmol, 10.0 g | C1(=CC=C(C=C1)[Si](OC(C)C)(C)CCl)C1=CC=CC=C1 | C17H21ClOSi
reactant | 4-bromofluorobenzene | 32.8 mmol, 3.6 ml | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | n-butyllithium | 32.8 mmol, 1.6 molar, 20.5 ml | C(CCC)[Li]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (1,1'-Biphenyl-4-yl)chloromethyl(4-fluorophenyl)methylsilane | C1(=CC=C(C=C1)[SiH](CC1=CC=C(C=C1)F)CCl)C1=CC=CC=C1 | C20H18ClFSi
